US07776897B2
tert-Butyl 2,2-dimethyl-3-phenylbut-3-enoate and trifluoroacetic acid were reacted in methylene chloride at room temperature to obtain 2,2-dimethyl-3-phenylbut-3-enoic acid.

reactant | tert-Butyl 2,2-dimethyl-3-phenylbut-3-enoate | CC(C(=O)OC(C)(C)C)(C(=C)C1=CC=CC=C1)C | C16H22O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-3-phenylbut-3-enoic acid | CC(C(=O)O)(C(=C)C1=CC=CC=C1)C | C12H14O2
